US06794400B2
4-Ethyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from 4-ethyl-3-thiosemicarbazide (100 mg, 0.838 mmol) and 2-pyridinecarboxaldehyde (80 μL, 0.838 mmol) similar to Example 3 and isolated as a white solid (137 mg, 78%). 1H NMR (DMSO-d6): 11.65 (s, 1H), 8.72 (t, J=5.4 Hz, 1H), 8.58-8.55 (m, 1H), 8.27 (dd, J=1.1, 8.1 Hz, 1H), 8.09 (s, 1H), 7.88-7.82 (m, 1H), 7.40-7.36 (m, 1H), 3.65-3.56 (m, 2H), 1.16 (t, J=7.1 Hz, 3H).

reactant | 4-ethyl-3-thiosemicarbazide | 0.838 mmol, 100 mg | C(C)NC(NN)=S | C3H9N3S
reactant | 2-pyridinecarboxaldehyde | 0.838 mmol, 80 μL | N1=C(C=CC=C1)C=O | C6H5NO
product | 4-Ethyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide | C(C)NC(NN=CC1=NC=CC=C1)=S | C9H12N4S
